US07763731B2
N-[4-(2-Nitro-4-trifluoromethyl-phenylsulfanyl)-phenyl]-acetamide
The title compound was prepared from 1-Chloro-2-nitro-4-trifluoromethyl-benzene (250 mg, 1.10 mmol), N-(4-Mercapto-phenyl)-acetamide (185 mg, 1.10 mmol), and K2CO3 (268 mg, 1.94 mmol) heated in DMF at 100° C. for 16 hrs. Reaction mixture was then cooled to room temperature and diluted with water and extracted with ethyl acetate (350 mg, 88%).

reactant | 1-Chloro-2-nitro-4-trifluoromethyl-benzene | 1.10 mmol, 250 mg | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | N-(4-Mercapto-phenyl)-acetamide | 1.10 mmol, 185 mg | SC1=CC=C(C=C1)NC(C)=O | C8H9NOS
reactant | K2CO3 | 1.94 mmol, 268 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[4-(2-Nitro-4-trifluoromethyl-phenylsulfanyl)-phenyl]-acetamide | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)SC1=CC=C(C=C1)NC(C)=O | C15H11F3N2O3S
